US03992450
A. Preparation of 3-Hydroxy-1-Indanone
A mixture of 73.25 g. (0.5 mole) of 1,3-indandione, 10.0 g. of 10% Pd on charcoal and 800 ml. of 2B-ethanol was added to the 1 liter flask of a Brown Hydrogenator, and hydrogen equivalent to 125 ml. of 1M sodium borohydride solution was added at room temperature and atmospheric pressure (0.5 mole H2). The solution was filtered through a bed of Celite Filter Aid, and the bed washed with ethanol. The ethanol solution was concentrated, and from the concentrate, a small amount of white solid separated, 1,3-indanediol, 1.6 g., m.p. 182°-187°. This by-product was filtered off and discarded. Evaporation of the filtrate gave 70.2 g. of nearly colorless oil (yield > 95%) which can be used directly in the aldehyde condensation. The IR spectrum of the product showed typical hydroxyl and carbonyl absorption.

reactant | 1,3-indandione | 0.5 mole | C1(CC(C2=CC=CC=C12)=O)=O | C9H6O2
reactant | hydrogen | [H][H] | H2
reactant | sodium borohydride | 1M | [BH4-].[Na+]
catalyst | Pd on charcoal | [Pd] | Pd
product | 3-Hydroxy-1-Indanone | yield > 95% | OC1CC(C2=CC=CC=C12)=O | C9H8O2
